US04270002
Into a 200 ml four-necked flask, there were charged toluene (150 ml), 1-phenylcyclohexylamine (10.5 g) and pyridine (5.2 g), and trimethylacetyl chloride (7.2 g) was dropwise added thereto while stirring at room temperature. Stirring was continued for 3 hours. After completion of the reaction, the reaction mixture was washed with water to remove pyridine hydrochloride. The toluene layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethanol to give 9.8 g of N-(1-phenylcyclohexyl)trimethylacetamide. M.P., 129°-130.5° C.

reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-phenylcyclohexylamine | 10.5 g | C1(=CC=CC=C1)C1(CCCCC1)N | C12H17N
reactant | trimethylacetyl chloride | 7.2 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 5.2 g | N1=CC=CC=C1 | C5H5N
product | N-(1-phenylcyclohexyl)trimethylacetamide | 9.8 g | C1(=CC=CC=C1)C1(CCCCC1)NC(C(C)(C)C)=O | C17H25NO
